US05192781
5.5 g of 2-methyl-4-propyl-5-(4-nitrobenzyl)thiazole in 60 ml of methanol are hydrogenated at normal pressure and room temperature in the presence of Raney nickel. After filtration of the catalyst and concentration of the filtrate, the residue is taken up with isopropyl ether, filtered off and then taken up in ethanol, passed over animal charcoal and concentrated to give 3.4 g of 2-methyl-4-propyl-5-(4-aminobenzyl)thiazole in the form of a greenish solid, which is used as such for the next step.

reactant | 2-methyl-4-propyl-5-(4-nitrobenzyl)thiazole | 5.5 g | CC=1SC(=C(N1)CCC)CC1=CC=C(C=C1)[N+](=O)[O-] | C14H16N2O2S
solvent | methanol | 60 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 2-methyl-4-propyl-5-(4-aminobenzyl)thiazole | 3.4 g | CC=1SC(=C(N1)CCC)CC1=CC=C(C=C1)N | C14H18N2S
